US05677306
The 2-bromo-4,6-dichloro-1-indanone is prepared as in Example 14 for the preparation of 2-bromo-4-fluoro-1-indanone but starting with 21.6 g of 4,6-dichloro-1-indanone, 63.56 g of copper bromide and 690 ml of dioxane. 14.5 g of 2-bromo-4,6-dichloro-1-indanone are obtained which melt at 80° C.

reactant | 2-bromo-4-fluoro-1-indanone | BrC1C(C2=CC=CC(=C2C1)F)=O | C9H6BrFO
reactant | 4,6-dichloro-1-indanone | 21.6 g | ClC1=C2CCC(C2=CC(=C1)Cl)=O | C9H6Cl2O
catalyst | copper bromide | 63.56 g | [Cu](Br)Br
solvent | dioxane | 690 ml | O1CCOCC1 | C4H8O2
product | 2-bromo-4,6-dichloro-1-indanone | 14.5 g | BrC1C(C2=CC(=CC(=C2C1)Cl)Cl)=O | C9H5BrCl2O
